data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2190,"C1=CC=[C:1]([Li:2])C=C1.CO[C:3](C1CCC2(CC1)OCCO2)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6172,"CC(=O)[CH:1]([H:2])[C:3](C)=[O:4].[H:5][Na:6]|((6, 5), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2653,"CC([CH2:1][Br:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8482,"CC(C)(C)C[CH:1]=[O:2].CCN(CC)CC.COC1=C(NC(=O)C[NH2:3])C=CC(OCCOC(C)=O)=C1.O=C(O)C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6679,"CC(C)[CH2][Al-]([OH])([CH2]C(C)C)[O:1]C(C=CC1=CC=CC=C1)C1=CC=CC=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8858,"C[N:1](C(=O)C=C(O)CC1=CC=CC=C1)[H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9104,"C[CH:1]=[CH2:2].O=S(=O)(C1=CC2=C(C=CC=C2)C=C1)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,8018,"C=CCN1CCC23C4=C(C=CC(OC)=C4[OH:1])CC1C2CC=C(O)[CH+:2]3.CO.CS(=O)(=O)O.CS(=O)(=O)[O-]|(1, 2)"
train,pmechdb_split_0,0,1780,"CCCCC(=O)C1=C(O)C=CC(Br)=C1.O=C(C(F)(F)F)[O:1][H:2].O=[N+]([O-])C1=CC=C(C(O)[N:3]2CCCC2C2=NN=NN2)C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6572,"C[CH:1]([NH:2]C)[F:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5109,"CCO[C:1](CCCC(C1=CC=CC=C1)[OH:2])=[OH+:3].O=C([O-])C(F)(F)F|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1878,"C[O+:1](C1OC(CO)C(O)C(O)C1O)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9470,"Cl[C:1]1=[CH:2][C:3](=[O:4])CCC1.N#[C-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1982,"CC(C)(C)O.COC1=CC=C(C=[N:1][N-:2][S:3](=O)(=O)C2=CC=C(C)C=C2)C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5354,"CC(=O)CC[C:1]([CH2:2][H:3])=[OH+:4].O=S(=O)(O)[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,3513,"IC1CC([O-:1])C2C[C:2](=[O:3])OC12.O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3172,"C=CC(C)C(C(C)C(CCCCCCC)OC(=O)C(COCC1=CC=CC=C1)NC(=O)OC(C)(C)C)[OH+:1][B-:2]1(O)OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1.[Na+].[OH-]|((2, 1), 1)"
train,pmechdb_split_0,0,1647,"CS(=O)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8564,"C=CC=[N:1]C.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6658,"CC(=O)[O-:1].COC1=NC(C2=CN(COCC[Si](C)(C)C)C3=C2C2CC(OC)(CC([O+:2](I4(OC(C)=O)(OC(C)=O)OC(=O)C5=C4C=CC=C5)[H:3])C2C)C3=O)=CN=C1C1=CN(S(=O)(=O)C2=CC=C(C)C=C2)C2=CC(Br)=CC=C12|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4759,"CCC[CH:1]([H:2])[C:3](C1=C(O)C=CC(Br)=C1)=[N+:4]1CCCC1C1=NN=NN1.O=C([O-])C(F)(F)F.O=CC1=CC=C([N+](=O)[O-])C=C1.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9688,"C[CH+:1]C.FC(F)(F)C1=CO[CH:2]=[CH:3]1|((3, 2), 1)"
train,pmechdb_split_0,0,1774,"CC(=O)[O-:1].O=C(CCC(O)(C1=CC=CC=C1)[NH+:2](CC1=CC=CC=C1)[H:3])C1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2817,"CCO.O=C(C1=CC(C(F)(F)F)=CC(C(F)(F)F)=C1)N1CCC(=[O+:1][H:2])CC1CC1=CC=CC=C1.OCCO.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5496,"NC1=C2NC(=O)N(C3OC(CO)C(O)C3O)C2=N[CH:1]([O-:2])[NH+:3]1CC1=CC(Br)=C(O)C(Br)=C1.[Br-].[OH-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2809,"C[C:1]#[CH:2].[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5515,"CC(C)[NH:1]C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1111,"CC(=O)O.CC(=O)OI1OC(=O)C2=C1C=CC=C2.CC(=O)O[I+:1]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-].CC1(C)C(=O)CCC2(C)C1CCC1CC3CC12CCC3[OH:2]|(2, 1)"
train,pmechdb_split_0,0,5997,"CC(C)C[C:1](Cl)=[O:2].COC1=CC(C[OH:3])=C(OC)C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7348,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.CCOC(=O)C(C[C:1](C)=[OH+:2])C(C(F)(F)F)=[O:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8796,"O=C1CCC(=[O+:1][H:2])N1Br.[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3538,"CO.COC(=O)CC[C:1]1=[C:2](C)[C:3](C(OC)OC)([H:4])[NH+:5]=[C:6]1C.O=C(C(F)(F)F)[O-:7]|(7, 4);((4, 3), 2);((2, 1), 6);((6, 5), 5)"
train,pmechdb_split_0,0,8905,"CCO[C:1](=[O:2])[C:3](C)(C)[C:4](OC)(C(C)C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5044,"CC[N:1](CC)CC.C[Si](C)(C)CCOC(=O)NC1CCC([C:2]([NH:3][H:4])=[O:5])CC1.O=C(OC(=O)C(F)(F)F)C(F)(F)F|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,9444,"CC1=CC=C(S(=O)(=O)OC(C)CCC[NH2:1])C=C1.C[C:2](OC(=NC1CCCCC1)NC1CCCCC1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1752,"CC(=O)C=CCCC(C=C(C)[O-])[S+:1](C1=CC=CC=C1)[K:2].O|((2, 1), 1)"
train,pmechdb_split_0,0,4661,"CCOC(C)(C)[O:1]CC.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5036,"COC1=CC=C(C(C)[C:1](OC)([OH:2])[OH+:3]C)C=C1.CS(=O)(=O)[O-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8915,"BrC(Br)Br.C1=CC=C([P+:1](C2=CC=CC=C2)(C2=CC=CC=C2)[O:2][CH2:3]CC2=CNC3=CC=CC=C23)C=C1.[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,499,"C[N:1](C)[CH+:2]S|(1, 2)"
train,pmechdb_split_0,0,9387,"C[P+:1](C)(C)[O:2][H:3].[OH-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1384,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC[CH:2](C)[O:3]S(=O)(=O)C1=CC=CC=C1|(1, 2);((2, 3), 3)"
